* OpenAMS folded-cascode OTA — flat MOS-level topology
*
* Independent assignment variables:
*   w_m1_um
*   i_m3_a
*
* M3-dependent realization:
*   Select a technology-supported (W3, VGS3, VDSAT3)
*   tuple for I3 and derive VNB1 while maintaining
*   M3 saturation.
*
* Balanced-current relationships:
*   I1 = I2 = I3/2
*   I4 = I5 = 1.5*I3
*   I6 = I7 = I8 = I9 = I10 = I11 = I3
*
* Width relationships:
*   W1 = W2
*   W4 = W5
*   W6 = W7
*   W8 = W9 = W10 = W11
*
* All M1-M11 must operate in saturation.

.param vdd=1.8
.param vss=0
.param vicm=0.9
.param c_load=10p

.param l_default_um=0.5
.param nf_default=1

* Independent assignment variables
.param w_m1_um=23.458333333333332
.param i_m3_a=6.17531e-05

* Dependent bias voltages
.param vnb1=0.66
.param vpb1=0.7
.param vpb2=0.575
.param vnb2=0.96

* Dependent and matched device widths
.param w_m2_um=23.458333333333332
.param w_m3_um=40.0

.param w_m4_um=63.0
.param w_m5_um=63.0

.param w_m6_um=63.0
.param w_m7_um=63.0

.param w_m8_um=100.0
.param w_m9_um=100.0
.param w_m10_um=100.0
.param w_m11_um=100.0

* Generated finger counts
.param nf_m1=1
.param nf_m3=1
.param nf_m4=1
.param nf_m6=1
.param nf_m8=1
.param nf_m10=1

* Convert micrometer parameters to SPICE dimensions
.param l_default=0.5

.param w_m1=23.4583333333
.param w_m2=23.4583333333
.param w_m3=40
.param w_m4=63
.param w_m5=63
.param w_m6=63
.param w_m7=63
.param w_m8=100
.param w_m9=100
.param w_m10=100
.param w_m11=100

.subckt folded_cascode_ota vip vin vout vdd vss

* Dependent and independent bias sources
VNB1BIAS vnb1_node vss {vnb1}
VPB1BIAS vpb1_node vss {vpb1}
VPB2BIAS vpb2_node vss {vpb2}
VNB2BIAS vnb2_node vss {vnb2}

* M1-M2: NMOS differential input pair
XM1 psrc_left vip tail vss sky130_fd_pr__nfet_01v8
+ w={w_m1} l={l_default} nf=1

XM2 psrc_right vin tail vss sky130_fd_pr__nfet_01v8
+ w={w_m2} l={l_default} nf=1

* M3: NMOS tail-current source
XM3 tail vnb1_node vss vss sky130_fd_pr__nfet_01v8
+ w={w_m3} l={l_default} nf=1

* M4-M5: PMOS upper current-source pair
XM4 psrc_left vpb1_node vdd vdd sky130_fd_pr__pfet_01v8
+ w={w_m4} l={l_default} nf=1

XM5 psrc_right vpb1_node vdd vdd sky130_fd_pr__pfet_01v8
+ w={w_m5} l={l_default} nf=1

* M6-M7: PMOS folded-cascode pair
XM6 x vpb2_node psrc_left vdd sky130_fd_pr__pfet_01v8
+ w={w_m6} l={l_default} nf=1

XM7 vout vpb2_node psrc_right vdd sky130_fd_pr__pfet_01v8
+ w={w_m7} l={l_default} nf=1

* M8-M9: NMOS cascode pair
XM8 x vnb2_node nsink_left vss sky130_fd_pr__nfet_01v8
+ w={w_m8} l={l_default} nf=1

XM9 vout vnb2_node nsink_right vss sky130_fd_pr__nfet_01v8
+ w={w_m9} l={l_default} nf=1

* M10-M11: NMOS lower current-sink pair
* Their common gate is self-biased by node x.
XM10 nsink_left x vss vss sky130_fd_pr__nfet_01v8
+ w={w_m10} l={l_default} nf=1

XM11 nsink_right x vss vss sky130_fd_pr__nfet_01v8
+ w={w_m11} l={l_default} nf=1

CLOAD vout vss {c_load}

.ends folded_cascode_ota
